US08222266B2
Preparation 33: 4-(3,5-Dimethyl-isoxazol-4-yl)-2-methylsulfanyl-pyrimidine (Prep33)
To a solution of 4-iodo-2-methylsulfanyl-pyrimidine (745 mg, 2.95 mmol) in degassed nPrOH (55 ml), 3,5-dimethyl-isoxazole-4-boronic acid (500 mg, 3.54 mmol), Na2CO3 (375 mg, 3.54 mmol), triphenylphosphine (80 mg, 0.29 mmol) and Pd(OAc)2 (20 mg, 0.09 mmol) were added. The mixture was stirred at 100° C. for 4.5 hours. The solvent was evaporated under vacuum, and the crude was dissolved in DCM and washed with water. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with petroleum ether-ethyl acetate (95-5 to 9-1) to give 638 mg of the title compound (97% yield).

reactant | 4-iodo-2-methylsulfanyl-pyrimidine | 2.95 mmol, 745 mg | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | 3,5-dimethyl-isoxazole-4-boronic acid | 3.54 mmol, 500 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | Na2CO3 | 3.54 mmol, 375 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 0.29 mmol, 80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | nPrOH | 55 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.09 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(3,5-Dimethyl-isoxazol-4-yl)-2-methylsulfanyl-pyrimidine | 638 mg, 97% yield | CC1=NOC(=C1C1=NC(=NC=C1)SC)C | C10H11N3OS
